### PR TITLE
chore: improve definitional properties of `Submodule` lattice structure

### PR DESCRIPTION
**Pull request by ocfnash**
More precisely: ensure that the `sup` and `sSup` fields are defeq to those of `AddSubmonoid`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Algebra/Operations.lean [hunk 1]
```diff
@@ -473,6 +473,7 @@ protected theorem pow_induction_on_left' {C : ∀ (n : ℕ) (x), x ∈ M ^ n →
       (fun x hx y hy Cx Cy => hadd _ _ _ _ _ Cx Cy) hx
 #align submodule.pow_induction_on_left' Submodule.pow_induction_on_left'
 
+set_option maxHeartbeats 700000 in
```
Comment (ocfnash) [inline Mathlib/Algebra/Algebra/Operations.lean:476]: I expect I'll be able to drop this by refactoring the proof below but first I want to see how CI reacts to the rest of the proposed changes.

**Comment by ocfnash** [comment]
!bench

**Comment by ocfnash** [comment]
!bench

**Comment by urkud** [comment]
What are the benefits of having these definitional equalities? I'm asking in the context of #6442, where adding this definitional equality for `sSup` won't be trivial.

**Comment by ocfnash** [comment]
!bench

**Comment by ocfnash** [comment]
> What are the benefits of having these definitional equalities?

I'm not determined to make this change; we can obviously survive without it. I claim the advantages are:

1. having lemmas true by definition is akin to having a single definition instead of several, and as such we enjoy a lighter mental load,
2. lemma-finding effort is reduced: one can prove new results using `rfl` rather than having to find the relevant lemmas (of course this pattern can be abused),
3. [theoretical] non-defeq lemmas like this doom any hope of keying typeclasses off this data (e.g., if we used took `SetLike` further, and used typeclasses for substructures and wanted to register instances of `sSup`).


I wonder if @eric-wieser might have more to add.

**Comment by eric-wieser** [comment]
My general thought is that the defeq of `sSup` is not that relevant, since most of the time we care about `iSup` anyway and we can't usefully control that.

The performance drop in CliffordAlgebra obviously doesn't sit very well with me; but otherwise the changes don't seem unreasonable, it's just not clear how much value they bring.

**Comment by ocfnash** [comment]
OK let's leave this then, I think the changes are mildly desirable but I'm happy to spend effort elsewhere instead.

Thank you both for the feedback!

File: Mathlib/Algebra/Module/Submodule/Lattice.lean [hunk 2]
```diff
@@ -223,34 +218,73 @@ instance : InfSet (Submodule R M) :=
...
+        · simp_rw [smul_add]; exact add_mem }
+
+instance : Sup (Submodule R M) where
+  sup p q :=
+    { toAddSubmonoid := p.toAddSubmonoid ⊔ q.toAddSubmonoid
+      smul_mem' := fun t m (hm : m ∈ p.toAddSubmonoid ⊔ q.toAddSubmonoid) ↦ by
+        change t • m ∈ p.toAddSubmonoid ⊔ q.toAddSubmonoid
+        rw [AddSubmonoid.mem_sup] at hm ⊢
+        obtain ⟨y, hy, z, hz, rfl⟩ := hm
+        exact ⟨t • y, p.smul_mem t hy, t • z, q.smul_mem t hz, (smul_add _ _ _).symm⟩ }
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/Submodule/Lattice.lean:253]: This one is probably a lot more useful than the `SupSet` one.

File: Mathlib/Algebra/Module/Submodule/Lattice.lean [hunk 3]
```diff
@@ -223,34 +218,73 @@ instance : InfSet (Submodule R M) :=
...
+    (sInf S).toAddSubmonoid = sInf {x | ∃ s ∈ S, s.toAddSubmonoid = x} :=
+  SetLike.coe_injective <| by simp
+
+theorem toAddSubmonoid_sInf' (S : Set (Submodule R M)) :
+    (sInf S).toAddSubmonoid = ⨅ p ∈ S, p.toAddSubmonoid := by
+  rw [toAddSubmonoid_sInf, ← Set.image, sInf_image]
+
+theorem toAddSubmonoid_sup (p q : Submodule R M) :
+    (p ⊔ q).toAddSubmonoid = p.toAddSubmonoid ⊔ q.toAddSubmonoid := by
+  rfl
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/Submodule/Lattice.lean:274]: Whether proved by `rfl` or otherwise, we absolutely should have this lemma (assuming it's not already here under a permuted name)

File: Mathlib/Algebra/Module/Submodule/Lattice.lean [hunk 4]
```diff
@@ -223,34 +218,73 @@ instance : InfSet (Submodule R M) :=
...
+theorem sInf_coe (P : Set (Submodule R M)) : (↑(sInf P) : Set M) = ⋂ p ∈ P, ↑p :=
+  rfl
+#align submodule.Inf_coe Submodule.sInf_coe
+
+theorem toAddSubmonoid_inf (p q : Submodule R M) :
+    (p ⊓ q).toAddSubmonoid = p.toAddSubmonoid ⊓ q.toAddSubmonoid := by
+  rfl
+
+theorem toAddSubmonoid_sInf (S : Set (Submodule R M)) :
+    (sInf S).toAddSubmonoid = sInf {x | ∃ s ∈ S, s.toAddSubmonoid = x} :=
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/Submodule/Lattice.lean:265]: I think using `''` in the statement would be best here

**Review by eric-wieser — COMMENTED** [review]
These new lemmas look largely worth having, even if the new defeq isn't

File: Mathlib/Algebra/Module/Submodule/Lattice.lean (hunk 4 above)
Comment (ocfnash) [reply Mathlib/Algebra/Module/Submodule/Lattice.lean:265]: This exists in #9721 (where in fact I had settled on the `''` spelling).

File: Mathlib/Algebra/Module/Submodule/Lattice.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/Algebra/Module/Submodule/Lattice.lean:274]: This already exists and is called `Submodule.sup_toAddSubmonoid` (I should really have known this).

File: Mathlib/Algebra/Module/Submodule/Lattice.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/Algebra/Module/Submodule/Lattice.lean:253]: I want to prioritise my actual goal for now but I may return to tinker with this definition again in a few days. If this change has no performance issues then I'd probably push for it.
